US05574173
Dissolved oxalyl chloride (3.83 g, 0.0302 mol) in 60 mL of dry dichloromethane, and cooled to -78° C. under a nitrogen atmosphere. Added DMSO (4.3 mL, 4.72 g, 0.0604 mol) dissolved in 15 mL of dry dichloromethane dropwise via addition funnel. CO and CO2 evolution observed. Stirred at -78° C. for 10 mins. Added 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-ol (6.77 g, 0.0241 mol) dissolved in 50 mL of dry dichloromethane via addition funnel. Stirred at -78° C. for 15 mins. Added triethylamine (10.1 mL, 7.33 g, 0.0724 mol) via addition funnel, and warmed reaction mixture slowly to room temperature. Added 200 mL of water, and separated layers. Extracted aqueous solution with dichloromethane. Washed combined organic extracts with 0.5N HCl, saturated NaCl, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 10% ethyl acetate-hexane then 15% ethyl acetate-hexane. Combined appropriate fractions and evaporated to give 6.44 g (96% yield) of 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-l-al.

reactant | oxalyl chloride | 0.0302 mol, 3.83 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.0604 mol, 4.3 mL, 4.72 g | CS(=O)C | C2H6OS
reactant | CO2 | C(=O)=O | CO2
reactant | 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-ol | 0.0241 mol, 6.77 g | C1=CC=CC=2OCC3=C(C(C21)C(CO)CC=C)C=CC=C3 | C19H20O2
reactant | triethylamine | 0.0724 mol, 10.1 mL, 7.33 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-l-al | 6.44 g, 96% yield | C1=CC=CC=2OCC3=C(C(C21)C(C=O)CC=C)C=CC=C3 | C19H18O2
